### PR TITLE
[Merged by Bors] - feat(Algebra): stably finite rings

### PR DESCRIPTION
**Pull request by alreadydone**
+ Show finite semirings are stably-finite.

+ Show stable finiteness is left-right symmetric.

+ Prove matrix characterizations of rank condition and invariant basis number; as consequences, show both properties are left-right symmetric.

+ Show stable finiteness implies the rank condition, generalizing [rankCondition_of_nontrivial_of_commSemiring](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/InvariantBasisNumber.html#rankCondition_of_nontrivial_of_commSemiring).

+ Reformulate a lemma as saying division rings are stably finite.

---

- [x] depends on: #32610

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-radar** [comment]
Benchmarking 253127e057d5bccd6a7d6b337d19b6c70b88073d ([status](https://radar.lean-lang.org/repos/mathlib4/commits/253127e057d5bccd6a7d6b337d19b6c70b88073d)) against b86f640b984928b1185ddc3cc5686f993a1f109f ([status](https://radar.lean-lang.org/repos/mathlib4/commits/b86f640b984928b1185ddc3cc5686f993a1f109f)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Review by artie2000 — APPROVED** [review]

**Comment by leanprover-radar** [comment]
Benchmarking 34217b33cb97de275a88ce355d90358076f304fa ([status](https://radar.lean-lang.org/repos/mathlib4/commits/34217b33cb97de275a88ce355d90358076f304fa)) against b86f640b984928b1185ddc3cc5686f993a1f109f ([status](https://radar.lean-lang.org/repos/mathlib4/commits/b86f640b984928b1185ddc3cc5686f993a1f109f)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Comment by leanprover-radar** [comment]
Benchmarking 7503eb190d162674207b8515bbc45c0330b8bcdf ([status](https://radar.lean-lang.org/repos/mathlib4/commits/7503eb190d162674207b8515bbc45c0330b8bcdf)) against b86f640b984928b1185ddc3cc5686f993a1f109f ([status](https://radar.lean-lang.org/repos/mathlib4/commits/b86f640b984928b1185ddc3cc5686f993a1f109f)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Review by erdOne — COMMENTED** [review]
I'll take a closer look on Saturday but my first comment would be that I would prefer having these basic results about `IsDedekindFiniteMonoid` in a separate file rather than sprinkled everywhere, as this is a rather niche notion.

**Review by alreadydone — COMMENTED** [review]
It's a basic notion requiring little to define, and I think it's generally good to make lemmas available as early as possible. If you put them in one file, the statements get longer as you won't be able to reuse local `variable`/`namespace`s.
Also note that I generalized `IsUnit.of_mul_eq_one(_right)` from CommMonoid to IsDedekindFiniteMonoid, and it's used a few times in mathlib.

File: Mathlib/Data/Matrix/Composition.lean [hunk 1]
```diff
@@ -142,15 +141,20 @@ theorem compRingEquiv_apply (M : Matrix I I (Matrix J J R)) :
...
 
 section LinearMap
 
-variable (K : Type*) [CommSemiring K] [AddCommMonoid R] [Module K R]
+variable (R₀ : Type*) [Semiring R₀] [AddCommMonoid R] [Module R₀ R]
 
 /-- `Matrix.comp` as `LinearEquiv` -/
 @[simps!]
-def compLinearEquiv : Matrix I J (Matrix K L R) ≃ₗ[K] Matrix (I × K) (J × L) R where
+def compLinearEquiv : Matrix I J (Matrix K L R) ≃ₗ[R₀] Matrix (I × K) (J × L) R where
```
Comment (alreadydone) [inline Mathlib/Data/Matrix/Composition.lean:157]: The double role of `K` is really hilarious ... apparently no one ever tried to use this for anything else.

File: Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean [hunk 2]
```diff
@@ -204,9 +204,8 @@ theorem detp_smul_adjp (hAB : A * B = 1) :
   rwa [add_add_add_comm, ← add_smul, add_add_add_comm, ← add_smul, ← h0, add_smul, one_smul,
     add_comm A, add_assoc, ((isAddUnit_detp_mul_detp hAB).smul_right _).add_right_inj] at h
 
-theorem mul_eq_one_comm : A * B = 1 ↔ B * A = 1 := by
-  suffices h : ∀ A B : Matrix n n R, A * B = 1 → B * A = 1 from ⟨h A B, h B A⟩
-  intro A B hAB
+instance instIsStablyFiniteRingOfCommSemiring : IsStablyFiniteRing R := by
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Matrix/SemiringInverse.lean]: I had to change the auto-generated name here because an instance in another file is given the same auto-generated name.

File: Mathlib/Algebra/Group/Hom/Defs.lean [hunk 3]
```diff
@@ -707,6 +707,10 @@ theorem map_exists_left_inv (f : F) {x : M} (hx : ∃ y, y * x = 1) : ∃ y, y *
   let ⟨y, hy⟩ := hx
   ⟨f y, map_mul_eq_one f hy⟩
 
+@[to_additive] theorem isDedekindFiniteMonoid_of_injective (f : F) (hf : Function.Injective f)
+    [IsDedekindFiniteMonoid N] : IsDedekindFiniteMonoid M where
+  mul_eq_one_symm eq := hf <| by simpa [mul_eq_one_comm] using congr_arg f eq
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Hom/Defs.lean]: This is not a `Def`. Can you put it in `Mathlib/Algebra/Group/Hom/Basic.lean` instead? Thanks.

File: Mathlib/Algebra/Group/Equiv/Defs.lean [hunk 4]
```diff
@@ -380,6 +380,15 @@ theorem _root_.MulEquivClass.coe_symm_apply_apply {α β} [Mul α] [Mul β] {F}
...
   (e : α ≃* β).left_inv x
 
+@[to_additive] theorem isDedekindFiniteMonoid_iff [MulOne α] [MulOne β]
+    {F} [EquivLike F α β] [MulEquivClass F α β] [OneHomClass F α β] (f : F) :
+    IsDedekindFiniteMonoid α ↔ IsDedekindFiniteMonoid β where
+  mp _ := let e := MulEquivClass.toMulEquiv f
+    let g : β →* α := ⟨⟨e.symm, e.injective <| (e.right_inv ..).trans (map_one f).symm⟩, map_mul _⟩
+    MonoidHom.isDedekindFiniteMonoid_of_injective g e.symm.injective
+  mpr _ := let g : α →* β := ⟨⟨f, map_one f⟩, map_mul f⟩
+    MonoidHom.isDedekindFiniteMonoid_of_injective g (EquivLike.injective f)
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Equiv/Defs.lean]: Similarly this probably belongs better in `Basic.lean`.

File: Mathlib/GroupTheory/DedekindFinite.lean [hunk 5]
```diff
@@ -0,0 +1,20 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Junyan Xu
+-/
+module
+
+public import Mathlib.Algebra.Regular.Basic
+public import Mathlib.Data.Fintype.Card
+
+/-!
+# Finite monoids are Dedekind-finite
```
Comment (erdOne) [inline Mathlib/GroupTheory/DedekindFinite.lean:12]: I think this file has the wrong name. `Mathlib/GroupTheory/Finite.lean` sounds like it should contain anything about finite groups but this.

File: Mathlib/Algebra/Group/Defs.lean [hunk 6]
```diff
@@ -689,6 +748,9 @@ class AddCommMonoid (M : Type u) extends AddMonoid M, AddCommSemigroup M
 @[to_additive]
 class CommMonoid (M : Type u) extends Monoid M, CommSemigroup M
 
+@[to_additive] instance (priority := high) (M) [CommMonoid M] :
+    IsDedekindFiniteMonoid M := inferInstance
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Defs.lean]: Can you leave a comment on why this is needed and why does this have higher priority? Usually instances of this form should get lower priority.

File: Mathlib/Algebra/Group/Defs.lean [hunk 7]
```diff
@@ -312,9 +315,32 @@ class AddZero (M : Type*) extends Zero M, Add M
...
+attribute [to_additive existing] isDedekindFiniteMonoid_iff
+
+@[to_additive] theorem mul_eq_one_comm {M} [MulOne M] [IsDedekindFiniteMonoid M] {a b : M} :
+    a * b = 1 ↔ b * a = 1 where
+  mp := mul_eq_one_symm
+  mpr := mul_eq_one_symm
+
+@[to_additive] instance (M) [MulOne M] [Std.Commutative (α := M) (· * ·)] :
+    IsDedekindFiniteMonoid M where
+  mul_eq_one_symm := (Std.Commutative.comm ..).trans
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Defs.lean]: This (and other instance whose goal is `IsDedekindFiniteMonoid M` with `M` a free variable) should have lower priority.

**Review by erdOne — COMMENTED** [review]
Also This PR is quite large, considering the number of files it touches.
Can you split the definition & basic properties of Dedekind-finite rings into a separate PR?
It would also be easier to gauge the performance impacts.

**Comment by alreadydone** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking baccd54ff4b721d47347cda70e547bdc59df9817 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/baccd54ff4b721d47347cda70e547bdc59df9817)) against b86f640b984928b1185ddc3cc5686f993a1f109f ([status](https://radar.lean-lang.org/repos/mathlib4/commits/b86f640b984928b1185ddc3cc5686f993a1f109f)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Comment by alreadydone** [comment]
!bench

**Comment by alreadydone** [comment]
!radar

**Comment by leanprover-radar** [comment]
Benchmarking e2ba49928a5165cf3e247a932a99e31e9f3d211d ([status](https://radar.lean-lang.org/repos/mathlib4/commits/e2ba49928a5165cf3e247a932a99e31e9f3d211d)) against 412e7b8df34e43e0f66f61e3453eee0d54b09f7a ([status](https://radar.lean-lang.org/repos/mathlib4/commits/412e7b8df34e43e0f66f61e3453eee0d54b09f7a)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

File: Mathlib/Algebra/Group/Hom/Defs.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Algebra/Group/Hom/Defs.lean]: There are two other theorems immediately above this new one, and they share the same `variable`s. I can't find an existing section in Basic.lean appropriate for this. In my opinion, if at some point we do want to get rid of all theorems in `Def.lean`, it's better to move all three theorems together in the same PR. For this reason I think it's better to keep it here for now.

File: Mathlib/Algebra/Group/Equiv/Defs.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Algebra/Group/Equiv/Defs.lean]: This has been moved.

File: Mathlib/Algebra/Group/Defs.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Algebra/Group/Defs.lean]: I'm now assigning it default priority and the decision is explained in the docstring added in [a6ebb86](https://github.com/leanprover-community/mathlib4/pull/32262/commits/a6ebb8698e51c84565f9fa408e6c8da0bb77cd2d).

File: Mathlib/Data/Matrix/Mul.lean [hunk 8]
```diff
@@ -1180,6 +1219,23 @@ theorem submatrix_mul_transpose_submatrix [Fintype m] [Fintype n] [AddCommMonoid
...
+instance [IsStablyFiniteRing R] : IsDedekindFiniteMonoid (Matrix n n R) :=
+  let e := Fintype.equivFin n
+  let f := MonoidHom.mk ⟨reindex (α := R) e e, submatrix_one_equiv _⟩
+    fun _ _ ↦ (submatrix_mul_equiv ..).symm
+  MonoidHom.isDedekindFiniteMonoid_of_injective f (reindex e e).injective
+
+variable {m n R} in
+/-- A version of `mul_eq_one_comm` that works for square matrices with rectangular types. -/
+theorem mul_eq_one_comm_of_equiv [IsStablyFiniteRing R] {A : Matrix m n R} {B : Matrix n m R}
+    (e : m ≃ n) : A * B = 1 ↔ B * A = 1 :=
```
Comment (erdOne) [inline Mathlib/Data/Matrix/Mul.lean:1234]: I wonder if this should take `Fintype.card m = Fintype.card n` instead. You can always feed it `Fintype.card_congr e` if you have a concrete equiv.

File: Mathlib/LinearAlgebra/FiniteDimensional/Basic.lean [hunk 9]
```diff
@@ -313,25 +314,49 @@ theorem ker_eq_bot_iff_range_eq_top [FiniteDimensional K V] {f : V →ₗ[K] V}
     LinearMap.ker f = ⊥ ↔ LinearMap.range f = ⊤ := by
   rw [range_eq_top, ker_eq_bot, injective_iff_surjective]
 
-/-- In a finite-dimensional space, if linear maps are inverse to each other on one side then they
-are also inverse to each other on the other side. -/
-theorem mul_eq_one_of_mul_eq_one [FiniteDimensional K V] {f g : V →ₗ[K] V} (hfg : f * g = 1) :
-    g * f = 1 := by
+/-- Any division ring is stably finite. -/
+instance : IsStablyFiniteRing K := by
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/FiniteDimensional/Basic.lean]: This should be lower priority according to `Note [lower instance priority]`. If this is not tagged because of some profiling result please document it in a docstring.

File: Mathlib/Data/Matrix/Mul.lean [hunk 10]
```diff
@@ -568,6 +573,40 @@ end CommSemiring
...
+  MonoidHom.isDedekindFiniteMonoid_of_injective f fun _ _ eq ↦ by simpa [f] using congr($eq 0 0)
+
+variable {R S F : Type*} [NonAssocSemiring R] [NonAssocSemiring S]
+
+theorem RingHom.isStablyFiniteRing_of_injective [FunLike F R S] [RingHomClass F R S] (f : F)
+    (hf : Function.Injective f) [IsStablyFiniteRing S] : IsStablyFiniteRing R where
+  isDedekindFiniteMonoid n :=
+  let f := MonoidHom.mk ⟨fun M : Matrix (Fin n) (Fin n) R ↦ M.map f,
+    Matrix.map_one _ (map_zero f) (map_one f)⟩ fun _ _ ↦ Matrix.map_mul
+  MonoidHom.isDedekindFiniteMonoid_of_injective f <| Matrix.map_injective hf
```
Comment (erdOne) [inline Mathlib/Data/Matrix/Mul.lean]: I don't like this being in the `RingHom` namespace, especially when the statement does not even mention `RingHom`s (only `RingHomClass`es).
I think I would prefer `IsStablyFiniteRing.of_injective` so that you could write `.of_injective _ _` at proofs.

File: Mathlib/Data/Matrix/Mul.lean [hunk 11]
```diff
@@ -568,6 +573,40 @@ end CommSemiring
...
+
+theorem RingEquiv.isStablyFiniteRing_iff [EquivLike F R S] [RingEquivClass F R S] (f : F) :
+    IsStablyFiniteRing R ↔ IsStablyFiniteRing S where
+  mp _ := RingHom.isStablyFiniteRing_of_injective _ (RingEquivClass.toRingEquiv f).symm.injective
+  mpr _ := RingHom.isStablyFiniteRing_of_injective f (EquivLike.injective f)
+
+instance [SetLike F R] [SubsemiringClass F R] (S : F) [IsStablyFiniteRing R] :
+    IsStablyFiniteRing S :=
+  RingHom.isStablyFiniteRing_of_injective _ (Subsemiring.subtype_injective <| .ofClass S)
```
Comment (erdOne) [inline Mathlib/Data/Matrix/Mul.lean]: This probably should get low priority.

File: Mathlib/Data/Matrix/Mul.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/Data/Matrix/Mul.lean:1234]: It's used 3 times in mathlib so I'd just keep this and add another version.

**Comment by alreadydone** [comment]
!radar

**Comment by leanprover-radar** [comment]
Benchmarking e07a569d97e9a4a75e25bde879da78578bbce689 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/e07a569d97e9a4a75e25bde879da78578bbce689)) against 8d3520ad1f44b6f95aff22e74804ca48efceb1d0 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/8d3520ad1f44b6f95aff22e74804ca48efceb1d0)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 12]
```diff
@@ -1159,4 +1166,43 @@ def endVecAlgEquivMatrixEnd :
...
+  refine ⟨fun h n f surj ↦ ?_, fun h n f g eq ↦ ?_⟩
+  · have ⟨g, eq⟩ := Module.projective_lifting_property _ .id surj
+    exact injective_of_comp_eq_id _ _ (h _ eq)
+  · have surj := surjective_of_comp_eq_id _ _ eq
+    have := (LinearEquiv.ofBijective f ⟨h _ _ surj, surj⟩).symm_comp
+    rwa [← left_inv_eq_right_inv this eq]
+
+theorem Module.End.injective_of_surjective_fin [IsStablyFiniteRing A] {n}
+    {f : Module.End A (Fin n → A)} (hf : Surjective f) : Injective f :=
+  isStablyFiniteRing_iff_injective_of_surjective.mp ‹_› n f hf
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean:1208]: Should this be stated in terms of any finite index instead?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Matrix/ToLin.lean:1208]: It's generalized to finite free modules over A in another file https://github.com/leanprover-community/mathlib4/pull/32262/files#diff-a138a99742e01ea1fcb41d45aa44275205a77b27e830dbcb8a50318f666299deR329-R339
But this version is needed in order not to add any imports to Matrix/InvariantBasisNumber.lean.

Comment (erdOne) [reply Mathlib/LinearAlgebra/Matrix/ToLin.lean:1208]: Can you point to that in the docstring of this? Thanks.

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 13]
```diff
@@ -1159,4 +1166,43 @@ def endVecAlgEquivMatrixEnd :
...
+    IsStablyFiniteRing A ↔ ∀ n (f : Module.End A (Fin n → A)), Surjective f → Injective f := by
+  simp_rw [isStablyFiniteRing_iff_isDedekindFiniteMonoid_moduleEnd, isDedekindFiniteMonoid_iff]
+  refine ⟨fun h n f surj ↦ ?_, fun h n f g eq ↦ ?_⟩
+  · have ⟨g, eq⟩ := Module.projective_lifting_property _ .id surj
+    exact injective_of_comp_eq_id _ _ (h _ eq)
+  · have surj := surjective_of_comp_eq_id _ _ eq
+    have := (LinearEquiv.ofBijective f ⟨h _ _ surj, surj⟩).symm_comp
+    rwa [← left_inv_eq_right_inv this eq]
+
+theorem Module.End.injective_of_surjective_fin [IsStablyFiniteRing A] {n}
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean:1206]:
```suggestion
/-- `Module.End.injective_of_surjective` is the more general version for finite free `A`-modules
not necessarily of the form `Fin n → A`, but this version requires less imports. -/
theorem Module.End.injective_of_surjective_fin [IsStablyFiniteRing A] {n}
```

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking 88541ef67e32504972ae937a948c5defdf1cf5c9 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/88541ef67e32504972ae937a948c5defdf1cf5c9)) against 8565b64b414799587df714b3aa3d5a56ca655513 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/8565b64b414799587df714b3aa3d5a56ca655513)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>
